US08541588B2
3-Cyano-4-fluoro-N-(5-fluoropyridin-2-yl)benzenesulfonamide
3-Cyano-4-fluorobenzenesulfonyl chloride (5 g, 20 mmol), 5-fluoropyridin-2-amine (3.37 g, 30 mmol) and pyridine (4.87 mL, 60 mmol) in dichloromethane (100 mL) were stirred at room temperature for 2 hours before concentrating in vacuo. The residue was triturated in hydrochloric acid (2 N aqueous solution, 100 mL) for 16 hours. The precipitate was filtered to afford the title compound as a pale pink solid, 6.1 g.

reactant | 3-Cyano-4-fluorobenzenesulfonyl chloride | 20 mmol, 5 g | C(#N)C=1C=C(C=CC1F)S(=O)(=O)Cl | C7H3ClFNO2S
reactant | 5-fluoropyridin-2-amine | 30 mmol, 3.37 g | FC=1C=CC(=NC1)N | C5H5FN2
reactant | pyridine | 60 mmol, 4.87 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-Cyano-4-fluoro-N-(5-fluoropyridin-2-yl)benzenesulfonamide | C(#N)C=1C=C(C=CC1F)S(=O)(=O)NC1=NC=C(C=C1)F | C12H7F2N3O2S
